US07517873B2
To a mixture of 2.05 g (0.0095 mole) of (rac)-2-methyl-3-(tetrahydro-pyran-4-ylamino)-propanoic acid ethyl ester, 1.85 g (0.0095 mole) of 2,4-dichloro-5-nitro-pyrimidine 50 mL of ethyl acetate and 25 mL of water was added 2.85 g (0.0286 mole) of potassium bicarbonate. The mixture was stirred for 3 hours and then diluted with 50 mL of ethyl acetate and 50 mL of water. The layers were separated, and the aqueous layer extracted with 100 mL of ethyl acetate. The organic layers were washed with 100 mL of brine, combined, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with hexanes-ethyl acetate (75:25) to give 3.48 g of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(tetrahydro-pyran-4-yl)-amino]-2-methyl-propanoic acid ethyl ester (IV-45) as pale yellow oil.

reactant | (rac)-2-methyl-3-(tetrahydro-pyran-4-ylamino)-propanoic acid ethyl ester | 0.0095 mole, 2.05 g | C(C)OC(C(CNC1CCOCC1)C)=O | C11H21NO3
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.0095 mole, 50 mL, 1.85 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | potassium bicarbonate | 0.0286 mole, 2.85 g | C([O-])(O)=O.[K+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(tetrahydro-pyran-4-yl)-amino]-2-methyl-propanoic acid ethyl ester | 3.48 g | C(C)OC(C(CN(C1CCOCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)C)=O | C15H21ClN4O5
